US08258306B2
To a solution of (R)-2-methylpiperazine (10 g, 100 mmol) in ethanol at room temperature was added K2CO3 (27.6 g, 200 mmol). The reaction mixture was cooled to 0° C., benzyl bromide (15.3 g, 89.5 mmol) was added and the reaction mixture was heated to 60° C. and stirred for 8 h. The reaction mixture was allowed to cool to room temperature, filtered through a filtration funnel and the filtrate was concentrated under reduced pressure to remove ethanol. The residue was washed with water and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude product. The crude product was purified by silica gel (100-200 mesh) column chromatography eluting with 5% methanol in chloroform to afford pure 12.0 g of (R)-1-benzyl-3-methylpiperazine.

reactant | (R)-2-methylpiperazine | 100 mmol, 10 g | C[C@H]1NCCNC1 | C5H12N2
reactant | K2CO3 | 200 mmol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 89.5 mmol, 15.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-benzyl-3-methylpiperazine | 12.0 g | C(C1=CC=CC=C1)N1C[C@H](NCC1)C | C12H18N2
